US09056874B2
tert-Butyl 4-(2,2-dibromovinyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate
To a solution of tert-butyl 4-formyl-5-methoxy-7-methyl-1H-indole-1-carboxylate (902 mg, 3.12 mmol) in CH2Cl2 (30 mL), CBr4 (1.55 g, 4.68 mmol) was added at 0° C. followed by PPh3 (2.45 g, 9.35 mmol). The mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated and directly purified via FCC eluting with Heptane/DCM 100:0 to 0:100 to provide the title compound. MS (ESI+) m/z 446.0, 448.0, 444.0, 446.9 (M+H).

reactant | tert-butyl 4-formyl-5-methoxy-7-methyl-1H-indole-1-carboxylate | 3.12 mmol, 902 mg | C(=O)C1=C2C=CN(C2=C(C=C1OC)C)C(=O)OC(C)(C)C | C16H19NO4
reactant | CBr4 | 4.68 mmol, 1.55 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 9.35 mmol, 2.45 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(2,2-dibromovinyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | BrC(=CC1=C2C=CN(C2=C(C=C1OC)C)C(=O)OC(C)(C)C)Br | C17H19Br2NO3
